2122-12-01 09:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Poor tolerance for SBT last PM, unfavorable RSBI.
   Much improved this AM, more awake, more alert and interactive this AM.
   Tolerating SBT this AM.
   Experiencing some increased abdominal pain this AM.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Shortness of br
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-11-30**] 08:00 PM
   Heparin Sodium - [**2122-11-30**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2122-12-1**] 07:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2122-12-1**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 104 (83 - 107) bpm
   BP: 111/51(66) {89/45(58) - 112/62(70)} mmHg
   RR: 23 (8 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  2,717 mL
                                                                    895 mL
   PO:
             TF:
   IVF:
                                                                    717 mL
                                                                    895 mL
   Blood products:
   Total out:
                                                                    845 mL
                                                                    245 mL
   Urine:
                                                                    205 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,872 mL
                                                                    651 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 187
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 30.9 cmH2O/mL
   SpO2: 97%
   ABG: 7.32/56/124/27/1
   Ve: 5.9 L/min
   PaO2 / FiO2: 413
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, midline surgical incision with dressing;
   PDA catheter intact
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   372 K/uL
   87 mg/dL
   0.4 mg/dL
   27 mEq/L
   4.5 mEq/L
   12 mg/dL
   100 mEq/L
   138 mEq/L
   31.4 %
   19.1 K/uL
        [image002.jpg]
                            [**2122-11-30**]  05:37 PM
                            [**2122-12-1**]  03:15 AM
                            [**2122-12-1**]  03:39 AM
   WBC
   19.1
   Hct
   31.4
   Plt
   372
   Cr
   0.4
   TCO2
   32
   30
   Glucose
   87
   Other labs: Mg++:2.2 mg/dL
   Assessment and Plan
   80 yof with hx of right open hemi-colectomy and kyphosis re-intubated
   in the PACU with hypercarbia in the setting of underlying restricitve
   ventilatory deficit and narcotis likely leading to relative
   hypoventilation.
   RESPIRATORY FAILURE -- Hypercarbic resp failure, with hypoventilation
   likely attributed to use of nacrotics/sedatives with underlying
   restrictive physiology (kyphoscloiosis), and evidence for chronic
   respiratory failure (elevated HCO3 at admission).  Held sedatives
   overnight, much improved this AM, much more awake and interactive.
   Tolerating SBT --> will move to extubation trial.  Continue nebulizer
   prn.  Consider BiPAP as back up if fails extubation (if OK with [**Doctor First Name **]).
   COLON CA -- s/p right hemi-colectomy: received cipro and flagyl in OR.
   Will touch base re: addtional abx (has PCN allergy).  F/u final path.
   Surgicial pain management (bupivicaine local infusion via PCA pump).
   Oncology to F/U.
   RENAL FUNCTION
 oliguria, improving with iv fluid repletion.  Monitor
   BUN, creatinine, urine output closel --> may need iv fliud bolus if
   remains marginal.
   FLUIDS
 hypovolemia, but improving.  Would monitor i/o.  [**Month (only) 11**] benefit
   from iv fluid bous challenge.
   ANEMIA -- evidence for hemoconcentration post-op, now improving, and
   Hct back to pre-op level.  Monitor Hct.
   ELEVATED WBC
 likely stress-related, but concern for possible evolving
   infection.  No focal signs currently.  Monitor.
   HYPOTHYROIDISM -- continue levothyroxine, adjust dose to iv (fraction
   of home dose).
   AORTIC STENOSIS --  no treatment indicated at ths time (most recent TTE
   in [**2121**]).  Avoid afterload reduction.
   Case discussed with ICU housestaff.  Additional issues per ICU resident
   note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-11-30**] 03:23 PM
   18 Gauge - [**2122-11-30**] 07:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2122-12-02 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   The patient was successfully extubated yesterday.  The patient had
   transient desaturation episodes into 80s during sleep last  night.  ABG
   during the episode was 7.26/73/74 on face tent/nasal cannula.  The
   patient was started non-invasive positive pressure ventilation, but was
   noted to have brief periods of apnea on NIPPV with repeat ABG
   7.27/70/139.  It was believed to be secondary to decreased respiratory
   drive due to increased oxygenation, prompting decrease of FIO2 to 30%.
   NIPPV did not seem to provide any additional benefit, pt. appeared more
   confused, ABG stable at 7.27/71/93.   NIPPV was subsequently
   discontinued. This morning, the patient is satting well on 4L NC.  She
   is A+Ox3, responds appropriately to all questions, but appears somewhat
   more somnolent
   This morning the patient is without any specific complaints, denies
   abdominal pain, shortness of breath.  Notes mild back pain improved
   with positioning.  Pain well controlled. The patient is on Morphine
   0.5-1 mg Q4H:PRN, but has not required any doses since yesterday.  No
   flatus as of this morning.  Lopressor held this AM due to SBP in 90s.
   Allergies:
   Penicillins
   Shortness of br
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2122-12-1**] 10:30 AM
   Morphine Sulfate - [**2122-12-1**] 02:10 PM
   Pantoprazole (Protonix) - [**2122-12-1**] 08:58 PM
   Heparin Sodium (Prophylaxis) - [**2122-12-1**] 08:58 PM
   Metoprolol - [**2122-12-2**] 12:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-12-2**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.1
   HR: 106 (87 - 120) bpm
   BP: 110/57(68) {87/36(49) - 120/59(72)} mmHg
   RR: 22 (16 - 24) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 52.4 kg (admission): 56.3 kg
   Height: 62 Inch
             Total In:
                                                                  2,295 mL
                                                                    527 mL
   PO:
             TF:
   IVF:
                                                                  2,295 mL
                                                                    527 mL
   Blood products:
   Total out:
                                                                    990 mL
                                                                    250 mL
   Urine:
                                                                    990 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,305 mL
                                                                    277 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 389 (240 - 389) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 28%
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   SpO2: 94%
   ABG: 7.27/71/92.[**Numeric Identifier 641**]/32/2
   Ve: 7.2 L/min
   PaO2 / FiO2: 310
   Physical Examination
   GENERAL: Pleasant elderly  woman in NAD,  alert, responsive and  able
   to communicate.
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. EOMI. MMM. OP clear. Neck Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. II/VI midpeaking
   systolic murmur loudest at RUSB
   LUNGS: Diffusely rhonchous on expiration
   ABDOMEN: NABS. Soft, NT,Mildy ttp. No HSM.  Surgical site c/d/i
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: AAO3.  Appears somewhat somnolent, but responds to voice
   commands.  Moves all extremities.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   375 K/uL
   9.8 g/dL
   90 mg/dL
   0.3 mg/dL
   32 mEq/L
   4.4 mEq/L
   14 mg/dL
   100 mEq/L
   141 mEq/L
   32.3 %
   15.2 K/uL
        [image002.jpg]
                            [**2122-11-30**]  05:37 PM
                            [**2122-12-1**]  03:15 AM
                            [**2122-12-1**]  03:39 AM
                            [**2122-12-1**]  10:26 AM
                            [**2122-12-1**]  01:41 PM
                            [**2122-12-1**]  08:52 PM
                            [**2122-12-1**]  11:21 PM
                            [**2122-12-2**]  02:24 AM
                            [**2122-12-2**]  03:52 AM
   WBC
   19.1
   15.2
   Hct
   31.4
   32.3
   32.3
   Plt
   372
   375
   Cr
   0.4
   0.3
   TCO2
   32
   30
   30
   34
   34
   34
   Glucose
   87
   90
   Other labs: PT / PTT / INR:11.7/25.8/1.0, Differential-Neuts:87.0 %,
   Lymph:8.1 %, Mono:4.7 %, Eos:0.1 %, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.2 mg/dL
   CXR ([**2122-12-1**]): Difficult interpretation due to
   Assessment and Plan
   80 y/o lady with restrictive lung disease from kyphoscoliosis, history
   of CO2 retention, R sided vocal cord paralysis, now s/p colectomy, POD
   #1, with respiratory failure post-operatively.
   .
   # Respiratory Failure: History of vocal cord dysfunction and
   kyphosis.   Appears to have chronic retainer with bicarb.  Respiratory
   failure likely precipitated by the sedation in this chonically
   retaining patient with restrctive physiology.
   -SBT this morning.  Will attempt extubation this AM if the patient
   tolerates.  RSBI may be falsely elevated in this elderly patient with
   restrictive anatomy.  The patient appears much more alert and
   responsive this AN, making successful extubation more likely.  Will
   evaluate ABG on SBT.
   - Fentanyl 25-50 mcg bolus for pain control for now; will try to
   minimize narcotics use in this patient
   -Continue Bupivacaine via abd. catheter fort 72 hours
   .
   # S/p right Colectomy for colon CA:
   - appreciate surgery recs, NPO for now
   - Pain control as above
   - will hold ASA for now
   .
   # AS:  Mild AS on clinical exam and TTE one year ago.  The patient
   appears euvolemic on exam, with adequate urinary output.  Hct stable
   compared to pre-op values.  Will be careful with IVF given AS, fluid
   shifts post-operatively.
   - Goal I&O even today given euvolemia. LR as needed.
   .
   #Anemia
 Hct slighly declined this AM to 31.4, compared to pre-op
   33.6.
   -Monitor Hct [**Hospital1 **] and transfuse for goal of Hct < 26 or signs of active
   bleeding\
   .
   #Leukocytosis
 WBC increased to 19.1 this AM from pre-op 13.0, likely
   in the setting of post-op stress.  The patient is afebrile at this
   time, so will hold off on antibiotics for now and will trend WBC
   counts.
   FEN: NPO for now/ replete lytes PRN/ IVF as above
   PPX:
   -DVT ppx with sc heparin [**Hospital1 **] and pneumoboots
   -Pain management with Fentanyl as above
   -VAP bundle
   .
   ACCESS: PIV's  and A-line
   .
   CODE STATUS: Full code confirmed with daughter.
   .
   EMERGENCY CONTACT:  Daughter
   .
   DISPOSITION:  if extubated, potential call out this PM after a period
   of close monitoring.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-11-30**] 07:00 PM
   Prophylaxis:
   DVT: Penumoboots and Heparin SC bid
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now ; potential callout today

2122-12-02 11:44:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, chronic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experienced transient oxygen desaturation during sleep, mild -->
   recoved with awakening.
   Experinced some apnea, ABG last PM --> with pCO2 >70 --> non-invasive
   ventilation started, without obvious benefit.
   Did well once non-invasive ventilation stopped, now on nasal cannula.
   Somewhat somnulant this AM, but without specific complaints.
   PMHx:  Daughter notes prior history of vocal cord paralysis.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillins
   Shortness of br
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2122-12-1**] 02:10 PM
   Pantoprazole (Protonix) - [**2122-12-1**] 08:58 PM
   Heparin Sodium (Prophylaxis) - [**2122-12-2**] 08:36 AM
   Metoprolol - [**2122-12-2**] 08:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2122-12-2**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 100 (87 - 120) bpm
   BP: 91/38(51) {87/36(49) - 120/59(71)} mmHg
   RR: 24 (16 - 24) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 52.4 kg (admission): 56.3 kg
   Height: 62 Inch
             Total In:
                                                                  2,295 mL
                                                                    860 mL
   PO:
             TF:
   IVF:
                                                                  2,295 mL
                                                                    860 mL
   Blood products:
   Total out:
                                                                    990 mL
                                                                    480 mL
   Urine:
                                                                    990 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,305 mL
                                                                    380 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 389 (389 - 389) mL
   PS : 12 cmH2O
   PEEP: 5 cmH2O
   FiO2: 28%
   SpO2: 93%
   ABG: 7.27/71/92.[**Numeric Identifier 641**]/32/2
   Ve: 7.2 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Midline surgical incision
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   375 K/uL
   90 mg/dL
   0.3 mg/dL
   32 mEq/L
   4.4 mEq/L
   14 mg/dL
   100 mEq/L
   141 mEq/L
   32.3 %
   15.2 K/uL
        [image002.jpg]
                            [**2122-11-30**]  05:37 PM
                            [**2122-12-1**]  03:15 AM
                            [**2122-12-1**]  03:39 AM
                            [**2122-12-1**]  10:26 AM
                            [**2122-12-1**]  01:41 PM
                            [**2122-12-1**]  08:52 PM
                            [**2122-12-1**]  11:21 PM
                            [**2122-12-2**]  02:24 AM
                            [**2122-12-2**]  03:52 AM
   WBC
   19.1
   15.2
   Hct
   31.4
   32.3
   32.3
   Plt
   372
   375
   Cr
   0.4
   0.3
   TCO2
   32
   30
   30
   34
   34
   34
   Glucose
   87
   90
   Other labs: PT / PTT / INR:11.7/25.8/1.0, Differential-Neuts:87.0 %,
   Lymph:8.1 %, Mono:4.7 %, Eos:0.1 %, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   80 yof with hx of right open hemi-colectomy and kyphosis re-intubated
   in the PACU with hypercarbia in the setting of underlying restricitve
   ventilatory deficit and narcotis likely leading to relative
   hypoventilation.
   RESPIRATORY FAILURE -- Hypercarbic respiratory failure, with
   hypoventilation likely attributed to use of nacrotics/sedatives with
   underlying restrictive physiology (kyphoscloiosis), and evidence for
   chronic respiratory failure (elevated HCO3 at admission).   Overall
   improved since extubation.  Continue nebulizer prn.  Consider BiPAP as
   back up if fails extubation.  Monitor ABG.
   COLON CA -- s/p right hemi-colectomy: received cipro and flagyl in OR.
   Will touch base re: addtional abx (has PCN allergy).  F/u final path.
   Surgicial pain management (bupivicaine local infusion via PCA pump).
   Oncology to F/U.  OOB.
   RENAL FUNCTION
 oliguria, improving with iv fluid repletion.  Monitor
   BUN, creatinine, urine output closel --> may need iv fliud bolus if
   remains marginal.
   FLUIDS
 hypovolemia improved.  Would monitor I/O.
   ANEMIA -- evidence for hemoconcentration post-op, now improving, and
   Hct back to pre-op level.  Monitor Hct.
   ELEVATED WBC
 likely stress-related, but concern for possible evolving
   infection.  No focal signs currently.  Monitor.
   HYPOTHYROIDISM -- continue levothyroxine, adjust dose to iv (fraction
   of home dose).
   AORTIC STENOSIS --  no treatment indicated at ths time (most recent TTE
   in [**2121**]).  Avoid afterload reduction.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2122-12-03 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -A&Ox3, hx R vocal cord paralysis, T 99.1, HR 100s, SaO2 93% 4L NC
   -lopressor held d/t SBP 90s
   - UCx no growth, BCx pending, SpuCx contaminated
   - tachy to 100s-120s while sleeping ?
   - was OOBTC very pleasant much more alert
   Allergies:
   Penicillins
   Shortness of br
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-12-2**] 07:32 PM
   Heparin Sodium (Prophylaxis) - [**2122-12-2**] 07:32 PM
   Metoprolol - [**2122-12-3**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-12-3**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (98.9
   HR: 85 (85 - 109) bpm
   BP: 106/57(68) {91/38(51) - 120/59(73)} mmHg
   RR: 23 (18 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.8 kg (admission): 56.3 kg
   Height: 62 Inch
             Total In:
                                                                  1,570 mL
                                                                    364 mL
   PO:
             TF:
   IVF:
                                                                  1,570 mL
                                                                    364 mL
   Blood products:
   Total out:
                                                                    910 mL
                                                                    280 mL
   Urine:
                                                                    910 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    660 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.31/68/70/35/4
   PaO2 / FiO2: 233
   Physical Examination
   GENERAL: Pleasant elderly  woman in NAD,  alert, responsive and  able
   to communicate.
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. EOMI. MMM. OP clear. Neck Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. II/VI midpeaking
   systolic murmur loudest at RUSB
   LUNGS: Diffusely rhonchous on expiration
   ABDOMEN: NABS. Soft, NT,Mildy ttp. No HSM.  Surgical site c/d/i
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: AAO3.  Appears somewhat somnolent, but responds to voice
   commands.  Moves all extremities.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   320 K/uL
   8.7 g/dL
   358 mg/dL
   0.3 mg/dL
   35 mEq/L
   3.8 mEq/L
   11 mg/dL
   98 mEq/L
   139 mEq/L
   28.2 %
   9.7 K/uL
        [image002.jpg]
                            [**2122-12-1**]  03:15 AM
                            [**2122-12-1**]  03:39 AM
                            [**2122-12-1**]  10:26 AM
                            [**2122-12-1**]  01:41 PM
                            [**2122-12-1**]  08:52 PM
                            [**2122-12-1**]  11:21 PM
                            [**2122-12-2**]  02:24 AM
                            [**2122-12-2**]  03:52 AM
                            [**2122-12-2**]  01:17 PM
                            [**2122-12-3**]  03:23 AM
   WBC
   19.1
   15.2
   9.7
   Hct
   31.4
   32.3
   32.3
   28.2
   Plt
   372
   375
   320
   Cr
   0.4
   0.3
   0.3
   TCO2
   30
   30
   34
   34
   34
   36
   Glucose
   87
   90
   358
   Other labs: PT / PTT / INR:12.0/25.5/1.0, Differential-Neuts:84.4 %,
   Lymph:9.6 %, Mono:5.7 %, Eos:0.1 %, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.0 mg/dL
   Assessment and Plan
   80 y/o lady with restrictive lung disease from kyphoscoliosis, history
   of CO2 retention, R sided vocal cord paralysis, now s/p colectomy, POD
   #1, with respiratory failure post-operatively.
   .
   # Respiratory Failure: History of vocal cord dysfunction and
   kyphosis.   Appears to have chronic retainer with bicarb.  Successfully
   extubated yesterday, now satting well on NC.  Somnolence may be
   secondary to hypercarbia, however this patient is a chronic retainer
   with pCO2 close to baseline.
   - Repeat ABG to assess CO2 status.
   -Continue low dose Morphine PRN for pain control; minimize due to high
   risk of delirium.
   -Continue Bupivacaine via abd. catheter fort 72 hours
   .
   # S/p right Colectomy for colon CA:
   - Continue pain control as above
   - No antibiotics for now unless febrile or signs of infection
   - Follow surgery recs
   - will hold ASA for now
   - NPO for now
   -OOB in chair; PT consult
   .
   # AS:  Mild AS on clinical exam and TTE one year ago.  The patient
   appears euvolemic on exam, with adequate urinary output.  Hct continues
   to be stable, no signs of active bleed.  Will be careful with IVF given
   AS, fluid shifts post-operatively.
   - Goal I&O even today given euvolemia.
   -LR@50 cc/hr currently; will adjust as needed to achieve above goal.
   #Anemia
 Hct stable with no signs of active bleed
   -Monitor Hct daily and transfuse for goal of Hct < 26 or signs of
   active bleeding.
   .
   #Leukocytosis
 WBC declined today to 15.2 from 19.1 yesterday.  The
   patient is afebrile at this time, so will hold off on antibiotics for
   now and will trend WBC counts.
   FEN: NPO for now/ replete lytes PRN/ IVF as above
   PPX:
   -DVT ppx with sc heparin [**Hospital1 **] and pneumoboots
   -Pain management with Morphine as above
   .
   ACCESS: PIVs
   .
   CODE STATUS: Full code confirmed with daughter.
   .
   EMERGENCY CONTACT:  Daughter
   .
   DISPOSITION:  ICU for now, potential call out this PM if less somnolent
   and no further desat episodes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-11-30**] 07:00 PM
   Prophylaxis:
   DVT: Penumoboots and Heparin SC bid
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now ; potential callout today

2122-12-03 08:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains extubated.
   Experienced transient decreased SaO2 while sleeping.  Tolerated up in
   chair.
   Pain management improved, using prn low dose morphine.
   Tolerating sips clear liquids.
   Voice remains hoarse (chronic vocal cord paralysis), almost back to
   baseline.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillins
   Shortness of br
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-12-2**] 07:32 PM
   Metoprolol - [**2122-12-3**] 06:10 AM
   Heparin Sodium (Prophylaxis) - [**2122-12-3**] 08:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2122-12-3**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 91 (85 - 109) bpm
   BP: 116/56(70) {91/38(51) - 120/59(73)} mmHg
   RR: 21 (18 - 26) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.8 kg (admission): 56.3 kg
   Height: 62 Inch
             Total In:
                                                                  1,570 mL
                                                                    438 mL
   PO:
             TF:
   IVF:
                                                                  1,570 mL
                                                                    438 mL
   Blood products:
   Total out:
                                                                    910 mL
                                                                    400 mL
   Urine:
                                                                    910 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    660 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: 7.31/68/70/35/4
   PaO2 / FiO2: 233
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Tender: Surgical site, No(t) Obese, Surgical incision
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   320 K/uL
   358 mg/dL
   0.3 mg/dL
   35 mEq/L
   3.8 mEq/L
   11 mg/dL
   98 mEq/L
   139 mEq/L
   28.2 %
   9.7 K/uL
        [image002.jpg]
                            [**2122-12-1**]  03:15 AM
                            [**2122-12-1**]  03:39 AM
                            [**2122-12-1**]  10:26 AM
                            [**2122-12-1**]  01:41 PM
                            [**2122-12-1**]  08:52 PM
                            [**2122-12-1**]  11:21 PM
                            [**2122-12-2**]  02:24 AM
                            [**2122-12-2**]  03:52 AM
                            [**2122-12-2**]  01:17 PM
                            [**2122-12-3**]  03:23 AM
   WBC
   19.1
   15.2
   9.7
   Hct
   31.4
   32.3
   32.3
   28.2
   Plt
   372
   375
   320
   Cr
   0.4
   0.3
   0.3
   TCO2
   30
   30
   34
   34
   34
   36
   Glucose
   87
   90
   358
   Other labs: PT / PTT / INR:12.0/25.5/1.0, Differential-Neuts:84.4 %,
   Lymph:9.6 %, Mono:5.7 %, Eos:0.1 %, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.0 mg/dL
   Assessment and Plan
   80 yof with hx of right open hemi-colectomy and kyphosis re-intubated
   in the PACU with hypercarbia in the setting of underlying restricitve
   ventilatory deficit and narcotis likely leading to relative
   hypoventilation.
   RESPIRATORY FAILURE -- Hypercarbic respiratory failure, with
   hypoventilation likely attributed to use of nacrotics/sedatives with
   underlying restrictive physiology (kyphoscloiosis), and evidence for
   chronic respiratory failure (elevated HCO3 at admission).   Overall
   improved since extubation.  Continue nebulizer prn.  Consider BiPAP as
   back up if fails extubation.  Monitor ABG.
   COLON CA -- s/p right hemi-colectomy: received cipro and flagyl in OR.
   Will touch base re: addtional abx (has PCN allergy).  F/u final path.
   Surgicial pain management (bupivicaine local infusion via PCA pump).
   Oncology to F/U.  OOB.
   PAIN MANAGEMENT -- cautious use of narcotics & pain meds (low dose).
   RENAL FUNCTION
 oliguria, improving with iv fluid repletion.  Monitor
   BUN, creatinine, urine output closel --> may need iv fliud bolus if
   remains marginal.
   HYPOPHOSPHATEMIA -- replete.
   FLUIDS
 hypovolemia improved.  Would monitor I/O.
   ANEMIA -- evidence for hemoconcentration post-op, now improving, and
   Hct back to pre-op level.  Monitor Hct.
   ELEVATED WBC
 likely stress-related, but concern for possible evolving
   infection.  No focal signs currently.  Monitor.
   HYPOTHYROIDISM -- continue levothyroxine, adjust dose to iv (fraction
   of home dose).
   AORTIC STENOSIS --  no treatment indicated at ths time (most recent TTE
   in [**2121**]).  Avoid afterload reduction.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2122-12-2**] 12:19 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes